US04323578
Trifluoroacetic anhydride, 71 ml (0.5 mol), was added dropwise to a 37.22 g (0.4 mol) sample of powdered 2-fluoroacetohydroxamic acid. The reaction mixture became liquid and warmed spontaneously to 60°. After cooling, the reaction mixture was evaporated to dryness under reduced pressure to give 70.3 g (93%) of N--(fluoroacetyl)--O--(trifluoroacetyl)hydroxylamine as a colorless, crystalline residue: mp 56°-59°; 1H NMR (CDCl3) δ5.05 ppm (d, J=47 Hz, 2H) and 9.8 ppm (NH); 19F NMR (CDCl3) δ-233.8 ppm (t, J=47 Hz, 1F) and 73.8 ppm (s, 3F).

reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-fluoroacetohydroxamic acid | FCC(=O)NO | C2H4FNO2
product | N--(fluoroacetyl)--O--(trifluoroacetyl)hydroxylamine | 70.3 g, 93% | FCC(=O)NOC(C(F)(F)F)=O | C4H3F4NO3
